US07317125B2
Preparation of benzoic acid N′-[2-(2′-methoxy-biphenyl-2-ylsulfanyl)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-phenylsulfanyl)-acetyl]-N′-isopropyl-hydrazide (100 mg, 0.246 mmol) in DME (5 ml)/2M Na2CO3 (0.43 ml, 0.86 mmoles) was treated with 2-methoxyphenylboronic acid (75 mg, 0.49 mmol) and Pd[PPh3]4 (28 mg, 0.025 mmol) for 12 hours at 90° C. The reaction mixture was partitioned between water and DCM. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was adsorbed on silica and purified on a silica gel column with a 20-50% ethyl acetate/hexane gradient to afford the product as a solid (59 mg, 54%). MS m/e 435.23 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-phenylsulfanyl)-acetyl]-N′-isopropyl-hydrazide | 0.246 mmol, 100 mg | BrC1=C(C=CC=C1)SCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C18H19BrN2O2S
reactant | Na2CO3 | 0.86 mmoles, 2M, 0.43 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-methoxyphenylboronic acid | 0.49 mmol, 75 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
solvent | DME | 5 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(2′-methoxy-biphenyl-2-ylsulfanyl)-acetyl]-N′-isopropyl-hydrazide | 59 mg, 54% | COC1=C(C=CC=C1)C1=C(C=CC=C1)SCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C25H26N2O3S
